US08119671B2
Process 5; Production of 4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazole-3-yl]-2-methyl-N-[1-(2-pyridyl)cyclopropyl]benzamide
Into a solution of 0.50 g of 4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazole-3-yl]-2-methylbenzoyl chloride in 10 mL of dichloromethane, 0.20 g of 1-(2-pyridyl)cyclopropylamine was dropped while stirring and ice-cooling the solution and after the completion of the dropping, the stirring was continued at room temperature for 2 hours. After the completion of the reaction, the reaction mixture was poured into 20 mL of water and extracted with ethyl acetate (20 mL×2). The organic phase was cleaned with water (10 mL×1) and then was dehydrated and dried with saturated brine and over anhydrous sodium sulfate, respectively, in this order, and the solvent was distilled off under reduced pressure. The resultant residue was purified by silica gel column chromatography eluting with ethyl acetate-hexane (1:1) to obtain 0.16 g of the objective substance as a yellow resin-state substance.

reactant | 4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazole-3-yl]-2-methylbenzoyl chloride | 0.50 g | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC(=C(C(=O)Cl)C=C1)C)C(F)(F)F | C18H11Cl3F3NO2
reactant | 1-(2-pyridyl)cyclopropylamine | 0.20 g | N1=C(C=CC=C1)C1(CC1)N | C8H10N2
reactant | water | 20 mL | O | H2O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazole-3-yl]-2-methyl-N-[1-(2-pyridyl)cyclopropyl]benzamide | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC(=C(C(=O)NC2(CC2)C2=NC=CC=C2)C=C1)C)C(F)(F)F | C26H20Cl2F3N3O2
